US07994325B2
Step C. 2-Oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride
2-Oxo-1-(1-tert-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine (1.03 g, 3.23 mmol) was dissolved ill methanol (25 mL) and a solution of 2 N hydrochloric acid in ether (8 mL) was added at room temperature. After 2 h, the volatiles were removed in vacuo, to give the title compound (0.92 g). MS 219 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.01 (dd, J=6, 1 Hz, 1H), 7.83 (d, J=8 Hz, 1H), 7.28 (dd, J=8, 6 Hz, 1H), 4.60 (m, 1H), 3.59 (d, J=12 Hz, 2H), 3.21 (t, J=12 Hz, 2H), 2.70 (dq, J=13, 4 Hz, 2H), 2.12 (d, J=13 Hz, 2H).

reactant | 2-Oxo-1-(1-tert-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine | 3.23 mmol, 1.03 g | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N4O3
reactant | methanol | 25 mL | CO | CH4O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ether | 8 mL | CCOCC | C4H10O
product | 2-Oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.92 g | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1 | InChI=1S/C11H14N4O.2ClH/c16-11-14-10-9(2-1-5-13-10)15(11)8-3-6-12-7-4-8;;/h1-2,5,8,12H,3-4,6-7H2,(H,13,14,16);2*1H
